US07348318B2
Synthesis of (3S)-3-benzyloxycarbonylamino-1-bis(n-hexylamino)phosphinyl-2-piperidone
A solution of (3S)-3-benzyloxycarbonylamino-2-piperidone (2.48 g, 9.99 mmol) in tetrahydrofuran (25 mL) was cooled at an external temperature of −78° C., followed by adding dropwise thereto an n-butyllithium-hexane solution (1.54 M, 6.2 mL, 9.548 mmol) over a period of 10 minutes, and the resulting mixture was stirred at the same temperature for 1.5 hours. Subsequently, a solution of phosphorus oxychloride (1.53 g, 9.98 mmol) in tetrahydrofuran (5 mL) was added thereto and stirred for 1.25 hours, after which n-hexylamine (d=0.76, 6.0 mL, 45.06 mmol) was added thereto and the resulting mixture was stirred at room temperature for 10 minutes.

reactant | (3S)-3-benzyloxycarbonylamino-2-piperidone | 9.99 mmol, 2.48 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(NCCC1)=O | C13H16N2O3
reactant | phosphorus oxychloride | 9.98 mmol, 1.53 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | n-hexylamine | 45.06 mmol, 6.0 mL | C(CCCCC)N | C6H15N
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (3S)-3-benzyloxycarbonylamino-1-bis(n-hexylamino)phosphinyl-2-piperidone | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CCC1)P(=O)(NCCCCCC)NCCCCCC)=O | C25H43N4O4P
